* LVS netlist generated with ICnet by 'penatb' on Fri Feb 15 2019 at 13:09:40

*
* Globals.
*
.global ground VDD

*
* Component pathname : $LAB_1/Tutorials/Tutorial_1
*
.subckt Tutorial_1  OUT IN

        M2 OUT IN VDD VDD pmos l=0.13u w=2u m=1
        M1 OUT IN ground ground nmos l=0.13u w=0.6u m=1
.ends Tutorial_1

