* File: Inverter.pex.netlist.pex
* Created: Fri Feb 15 13:17:47 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_INVERTER_VDD 1 3 13
c0 15 0 498.88f
c1 7 0 461.434f
r2 13 15 0.015
r3 10 13 0.02125
r4 5 10 0.0564501
r5 5 7 0.375077
r6 3 19 0.6222
r7 1 19 0.0732
r8 1 15 1.95125
r9 1 7 2.58833
.ends

.subckt PM_INVERTER_GROUND 1 2 14
c0 14 0 436.045f
c1 8 0 174.064f
r2 6 14 0.0213613
r3 6 8 0.214154
r4 2 14 2.58833
r5 2 8 15.61
r6 1 2 2.12167
.ends

.subckt PM_INVERTER_OUT 1 3 17
c0 18 0 27.56f
c1 15 0 130.354f
c2 12 0 453.064f
c3 7 0 499.564f
r4 15 18 0.00880368
r5 15 17 0.0507692
r6 10 18 0.0338756
r7 10 12 0.466462
r8 5 18 0.0338756
r9 5 7 0.752
r10 4 12 2.58833
r11 4 7 15.61
r12 3 4 0.6222
r13 1 4 1.89833
.ends

.subckt PM_INVERTER_IN 4 8 18
c0 14 0 158.01f
c1 11 0 37.8f
c2 10 0 258.54f
c3 8 0 682.864f
c4 4 0 565.344f
r5 14 18 0.0618462
r6 12 14 11.07
r7 10 12 24.3333
r8 10 11 1.15766
r9 6 11 7.93977
r10 6 8 137.308
r11 2 11 7.93977
r12 2 4 151.154
.ends

