* File: and_2.pex.netlist.pex
* Created: Wed Mar  6 20:33:26 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_AND_2_VDD 3 20 22 41 85
r0 85 87 0.054
r1 83 91 0.0487927
r2 82 89 0.0487927
r3 81 87 0.0487927
r4 48 91 0.059
r5 45 83 0.375385
r6 41 51 0.6222
r7 29 91 0.147
r8 29 89 0.059
r9 26 82 0.375385
r10 22 32 0.6222
r11 20 51 0.0732
r12 20 48 1.30083
r13 20 45 2.58833
r14 20 32 0.0732
r15 20 29 1.30083
r16 20 26 2.58833
r17 13 20 0.0732
r18 10 89 0.147
r19 10 87 0.059
r20 10 20 1.30083
r21 7 81 0.375385
r22 7 20 2.58833
r23 3 13 0.6222
.ends

.subckt PM_AND_2_GROUND 1 2 31 32 33 61 62 126
r0 133 134 0.104
r1 130 131 0.104
r2 126 128 0.046
r3 124 136 0.0487927
r4 123 134 0.0487927
r5 122 133 0.0487927
r6 121 131 0.0487927
r7 120 130 0.0487927
r8 119 128 0.0487927
r9 77 136 0.035
r10 77 134 0.067
r11 74 124 0.212308
r12 69 123 0.212308
r13 47 133 0.035
r14 47 131 0.067
r15 44 122 0.212308
r16 39 121 0.212308
r17 33 62 1.89833
r18 33 61 2.12167
r19 33 77 1.29417
r20 33 74 15.61
r21 33 69 15.61
r22 33 47 1.29417
r23 33 44 15.61
r24 33 39 15.61
r25 32 33 1.89833
r26 31 33 2.12167
r27 17 130 0.035
r28 17 128 0.067
r29 17 33 1.29417
r30 14 120 0.212308
r31 14 33 15.61
r32 9 119 0.212308
r33 9 33 15.61
r34 2 33 1.89833
r35 1 33 2.12167
.ends

.subckt PM_AND_2_IN1 12 16 40 44 69
r0 67 72 0.0477743
r1 67 69 0.444
r2 63 64 0.202
r3 61 64 0.0446983
r4 61 62 0.104
r5 46 63 0.0477743
r6 46 48 11.07
r7 46 48 0.68
r8 42 44 255.385
r9 38 40 188.846
r10 36 38 5.58729
r11 36 37 11.1538
r12 34 42 5.58729
r13 34 35 20.3846
r14 33 37 5.58729
r15 32 46 8.27089
r16 32 33 83.0769
r17 31 46 8.27089
r18 30 35 5.58729
r19 30 31 63.8462
r20 18 62 0.056273
r21 18 72 0.68
r22 18 20 11.07
r23 18 20 0.68
r24 14 16 136.154
r25 10 12 180.769
r26 8 14 5.58729
r27 8 9 28.8462
r28 6 10 5.58729
r29 6 7 22.6923
r30 5 9 5.58729
r31 4 18 8.27089
r32 4 5 80.7692
r33 3 18 8.27089
r34 2 7 5.58729
r35 2 3 193.462
.ends

.subckt PM_AND_2_IN2 12 16 40 44 69
r0 67 72 0.0477743
r1 67 69 0.444
r2 63 64 0.202
r3 61 64 0.0446983
r4 61 62 0.104
r5 46 63 0.0477743
r6 46 48 11.07
r7 46 48 0.68
r8 42 44 255.385
r9 38 40 188.846
r10 36 38 5.58729
r11 36 37 11.1538
r12 34 42 5.58729
r13 34 35 20.3846
r14 33 37 5.58729
r15 32 46 8.27089
r16 32 33 83.0769
r17 31 46 8.27089
r18 30 35 5.58729
r19 30 31 63.8462
r20 18 62 0.056273
r21 18 72 0.68
r22 18 20 11.07
r23 18 20 0.68
r24 14 16 136.154
r25 10 12 180.769
r26 8 14 5.58729
r27 8 9 28.8462
r28 6 10 5.58729
r29 6 7 22.6923
r30 5 9 5.58729
r31 4 18 8.27089
r32 4 5 80.7692
r33 3 18 8.27089
r34 2 7 5.58729
r35 2 3 193.462
.ends

.subckt PM_AND_2_5 1 3 50 54
r0 56 58 11.07
r1 56 58 0.68
r2 52 54 136.154
r3 48 50 180.769
r4 46 52 5.58729
r5 46 47 28.8462
r6 44 48 5.58729
r7 44 45 22.6923
r8 43 47 5.58729
r9 42 56 8.27089
r10 42 43 80.7692
r11 41 56 8.27089
r12 40 45 5.58729
r13 40 41 193.462
r14 21 23 0.0615385
r15 20 23 0.0046983
r16 19 26 0.0410359
r17 19 20 0.192308
r18 18 26 0.0410359
r19 17 18 0.901538
r20 12 21 0.0046983
r21 12 14 0.687692
r22 10 17 0.0446983
r23 10 11 0.101538
r24 5 11 0.0446983
r25 5 7 0.558462
r26 4 56 0.249802
r27 4 26 0.68
r28 4 14 2.58833
r29 4 7 15.61
r30 3 4 0.6222
r31 1 4 2.12167
.ends

.subckt PM_AND_2_6 1 3 50 54
r0 75 76 0.21
r1 73 75 0.0446983
r2 73 74 1.276
r3 71 74 0.0446983
r4 71 72 0.498
r5 56 76 0.0477743
r6 56 58 11.07
r7 56 58 0.68
r8 52 54 255.385
r9 48 50 188.846
r10 46 48 5.58729
r11 46 47 11.1538
r12 44 52 5.58729
r13 44 45 20.3846
r14 43 47 5.58729
r15 42 56 8.27089
r16 42 43 83.0769
r17 41 56 8.27089
r18 40 45 5.58729
r19 40 41 63.8462
r20 21 23 0.0615385
r21 20 23 0.0046983
r22 19 26 0.0410359
r23 19 20 0.192308
r24 18 26 0.0410359
r25 17 18 0.901538
r26 12 21 0.0046983
r27 12 14 0.687692
r28 10 17 0.0446983
r29 10 11 0.101538
r30 5 11 0.0446983
r31 5 7 0.558462
r32 4 72 0.0477743
r33 4 26 0.68
r34 4 14 2.58833
r35 4 7 15.61
r36 3 4 0.6222
r37 1 4 2.12167
.ends

.subckt PM_AND_2_OUT 1 3 43
r0 41 46 0.0477743
r1 41 43 0.454
r2 21 23 0.0615385
r3 20 23 0.0046983
r4 19 26 0.0410359
r5 19 20 0.192308
r6 18 26 0.0410359
r7 17 18 0.901538
r8 12 21 0.0046983
r9 12 14 0.687692
r10 10 17 0.0446983
r11 10 11 0.101538
r12 5 11 0.0446983
r13 5 7 0.558462
r14 4 46 0.68
r15 4 26 0.68
r16 4 14 2.58833
r17 4 7 15.61
r18 3 4 0.6222
r19 1 4 2.12167
.ends

