* SPICE NETLIST
***************************************

.SUBCKT mimcap_g13 plus minus
.ENDS
***************************************
.SUBCKT spiral_inductor_lvs pos neg
.ENDS
***************************************
.SUBCKT nor VDD ground Y B A
** N=6 EP=5 IP=0 FDC=4
M0 Y B ground ground nmos L=1.3e-07 W=6e-07 $X=24680 $Y=95970 $D=19
M1 ground A Y ground nmos L=1.3e-07 W=6e-07 $X=25190 $Y=95970 $D=19
M2 6 B VDD VDD pmos L=1.3e-07 W=2e-06 $X=24760 $Y=103515 $D=25
M3 Y A 6 VDD pmos L=1.3e-07 W=2e-06 $X=25070 $Y=103515 $D=25
.ENDS
***************************************
.SUBCKT and_2 ground VDD IN1 IN2 OUT
** N=7 EP=5 IP=15 FDC=12
X0 VDD ground 6 IN1 IN1 nor $T=-2730 4130 0 0 $X=20960 $Y=98830
X1 VDD ground 5 IN2 IN2 nor $T=-670 4130 0 0 $X=23020 $Y=98830
X2 VDD ground OUT 5 6 nor $T=1390 4130 0 0 $X=25080 $Y=98830
.ENDS
***************************************
