* LVS netlist generated with ICnet by 'penatb' on Wed Mar  6 2019 at 20:18:14

*
* Globals.
*
.global ground VDD

*
* Component pathname : $LAB_1/Tutorials/Tutorial_5
*
.subckt Tutorial_5  Y A B

        M4 Y A ground ground nmos l=0.13u w=0.6u m=1
        M3 Y B ground ground nmos l=0.13u w=0.6u m=1
        M2 Y A N$5 VDD pmos l=0.13u w=2u m=1
        M1 N$5 B VDD VDD pmos l=0.13u w=2u m=1
.ends Tutorial_5

