* File: nor.pex.netlist.pex
* Created: Mon Feb 25 21:53:08 2019
* Program "Calibre xRC"
* Version "v2012.2_36.25"
* Nominal Temperature: 27C
* Circuit Temperature: 27C
* 
.subckt PM_NOR_VDD 1 3 12
c0 14 0 378.16f
c1 10 0 223.2f
c2 7 0 461.434f
r3 12 14 0.018
r4 10 12 0.028
r5 5 10 0.0617927
r6 5 7 0.375385
r7 3 18 0.6222
r8 1 18 0.0732
r9 1 14 1.30083
r10 1 7 2.58833
.ends

.subckt PM_NOR_GROUND 1 2 3 20
c0 24 0 580.8f
c1 14 0 173.134f
c2 9 0 173.134f
r3 22 24 0.035
r4 20 22 0.018
r5 17 20 0.049
r6 12 24 0.0487927
r7 12 14 0.212308
r8 7 17 0.0487927
r9 7 9 0.212308
r10 3 22 1.29417
r11 3 14 15.61
r12 3 9 15.61
r13 2 3 1.89833
r14 1 3 2.12167
.ends

.subckt PM_NOR_Y 1 3 10 26
c1 29 0 59.61f
c2 26 0 74.24f
c3 23 0 85.56f
c4 20 0 115.878f
c5 18 0 544.608f
c6 14 0 586.984f
c7 11 0 48.36f
c8 10 0 105.988f
c9 7 0 382.384f
r10 26 29 0.68
r11 21 23 0.0615385
r12 20 23 0.0046983
r13 19 29 0.0410359
r14 19 20 0.192308
r15 18 29 0.0410359
r16 17 18 0.901538
r17 14 26 2.58833
r18 12 21 0.0046983
r19 12 14 0.687692
r20 10 17 0.0446983
r21 10 11 0.101538
r22 7 26 15.61
r23 5 11 0.0446983
r24 5 7 0.558462
r25 3 26 0.6222
r26 1 26 2.12167
.ends

.subckt PM_NOR_B 12 16 24
c0 24 0 186.24f
c1 21 0 114.626f
c2 16 0 679.474f
c3 12 0 652.354f
c4 9 0 29.38f
c5 8 0 113.678f
c6 7 0 29.38f
c7 6 0 95.598f
c8 5 0 236.848f
c9 3 0 567.938f
r10 21 24 11.07
r11 21 24 0.68
r12 14 16 136.154
r13 10 12 180.769
r14 8 14 5.58729
r15 8 9 28.8462
r16 6 10 5.58729
r17 6 7 22.6923
r18 5 9 5.58729
r19 4 24 8.27089
r20 4 5 80.7692
r21 3 24 8.27089
r22 2 7 5.58729
r23 2 3 193.462
.ends

.subckt PM_NOR_A 12 16 20
c1 23 0 114.626f
c2 20 0 186.24f
c3 16 0 871.574f
c4 12 0 834.284f
c5 9 0 29.38f
c6 8 0 61.698f
c7 7 0 29.38f
c8 6 0 88.818f
c9 5 0 243.628f
c10 3 0 187.128f
r11 20 23 11.07
r12 20 23 0.68
r13 14 16 255.385
r14 10 12 188.846
r15 8 10 5.58729
r16 8 9 11.1538
r17 6 14 5.58729
r18 6 7 20.3846
r19 5 9 5.58729
r20 4 20 8.27089
r21 4 5 83.0769
r22 3 20 8.27089
r23 2 7 5.58729
r24 2 3 63.8462
.ends

